US04455422
2.5 Grams of 6-(4-chloro-1-butenyl)-3,4-dihydrocarbostyril and 2.3 g of DDQ (2,3-dichloro-5,6-dicyanobenzoquinone) were mixed in 160 ml of dioxane and the mixture was refluxed by heating for 6 hours. Further, 1.1 of DDQ was added to the reaction mixture and the mixture was refluxed by heating for 3 hours. The reaction mixture was cooled and the precipitates thus formed were removed by filtration and the motor liquor was concentrated under a reduced pressure to obtain a residue. The residue was dissolved in a mixture of 100 ml of chloroform with 5 ml of methanol and the solution was padded through a silica gel column for removing the unreacted DDQ. The residue was recrystallized from methanol to obtain 1.6 g of 6-(4-chloro-1-butenyl)carbostyril in yellow needle-like crystals. Melting point: 215°-218° C.

reactant | 6-(4-chloro-1-butenyl)-3,4-dihydrocarbostyril | ClCCC=CC=1C=C2CCC(NC2=CC1)=O | C13H14ClNO
reactant | DDQ | 2.3 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dioxane | 160 ml | O1CCOCC1 | C4H8O2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 5 ml | CO | CH4O
product | 6-(4-chloro-1-butenyl)carbostyril | 1.6 g | ClCCC=CC=1C=C2C=CC(NC2=CC1)=O | C13H12ClNO
